US05474995
Step 2: 3-(4-(Aminosulfonyl)phenyl)-2-(4-fluorophenyl)thiophene
To a solution of 3-(4-(aminosulfonyl)phenyl)-2-(4-fluorophenyl)thiophene-2-carboxylic acid (0.280 g) in quinoline (4.0 mL) was added Cu bronze (0.300 g). After 0.5 h at 180° C. under nitrogen, the reaction mixture was extracted with EtOAc and HCl 3N, dried over Na2SO4 and purified by flash chromatography (30% EtOAc in hexane) to give the title compound as a white solid (0.180 g).

reactant | 3-(4-(aminosulfonyl)phenyl)-2-(4-fluorophenyl)thiophene-2-carboxylic acid | 0.280 g | NS(=O)(=O)C1=CC=C(C=C1)C1C(SC=C1)(C(=O)O)C1=CC=C(C=C1)F | C17H14FNO4S2
solvent | quinoline | 4.0 mL | N1=CC=CC2=CC=CC=C12 | C9H7N
product | 3-(4-(Aminosulfonyl)phenyl)-2-(4-fluorophenyl)thiophene | 0.180 g | NS(=O)(=O)C1=CC=C(C=C1)C1=C(SC=C1)C1=CC=C(C=C1)F | C16H12FNO2S2
